### PR TITLE
Add Erdős Problem 795 (sets with distinct subset products), link the formal proof

### LINKED ISSUE #6337: Erdős Problem 795
### What is the Erdős problem?

https://www.erdosproblems.com/795

Let $g(n)$ be the maximal size of $A\subseteq \{1,\ldots,n\}$ such that the products $\prod_{n\in S}n$ are distinct for all $S\subseteq A$. Is it true that $g(n) \leq \pi(n)+\pi(n^{1/2})+o\left(\frac{n^{1/2}}{\log n}\right)$?

Status: proved by Raghavan [Ra25]. A formal proof exists in plby/lean-proofs (`Erdos795.erdos_795`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6337.

### What changed
Adds `FormalConjectures/ErdosProblems/795.lean` with `HasDistinctSubsetProducts` and `g n` (the largest such subset of `[1, n]`):
- `erdos_795` (`research solved`, `answer(True)`): `g(n) ≤ π(n) + π(√n) + o(√n / log n)` (Raghavan [Ra25]). Linked to plby/lean-proofs `Erdos795.erdos_795` (Codex and GPT-5.6 Sol; single Mathlib-only file, ~6700 lines).
- Sorry'd variants: Erdős' `π(n) + O(√n/log n)` bound, Raghavan's `O(n^{5/12+o(1)})` upper and `π(n^{1/3})/3 - O(1)` lower bounds, and the trivial primes-and-prime-squares lower bound.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos795.erdos_795` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (uses plby's signed little-o error term `erdos_795_signed_error_isLittleO`; `g` as `sSup` vs plby's `Finset.sup`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge795

lemma hasDistinctSubsetProducts_iff (A : Finset ℕ) :
    Erdos795.HasDistinctSubsetProducts A ↔ Erdos795Plby.DistinctSubsetProducts A := Iff.rfl

lemma g_eq (n : ℕ) : Erdos795.g n = Erdos795Plby.g n := by
  classical
  unfold Erdos795.g Erdos795Plby.g
  apply le_antisymm
  · refine csSup_le ⟨0, ∅, by simp, ?_, by simp⟩ ?_
    · intro S hS T hT _
      simp only [Finset.powerset_empty, Finset.coe_singleton,
        Set.mem_singleton_iff] at hS hT
      rw [hS, hT]
    · rintro k ⟨A, hA, hd, rfl⟩
      exact Finset.le_sup (f := Finset.card)
        (Finset.mem_filter.2 ⟨Finset.mem_powerset.2 hA, hd⟩)
  · refine Finset.sup_le fun A hA => ?_
    rw [Finset.mem_filter, Finset.mem_powerset] at hA
    refine le_csSup ⟨n, ?_⟩ ⟨A, hA.1, hA.2, rfl⟩
    rintro k ⟨B, hB, -, rfl⟩
    exact (Finset.card_le_card hB).trans (by simp)

theorem erdos_795_bridge : type_of% Erdos795.erdos_795 := by
  show True ↔ _
  simp only [true_iff, g_eq]
  refine ⟨fun N => (Erdos795Plby.g N : ℝ) - Nat.primeCounting N -
    Nat.primeCounting (Nat.sqrt N), Erdos795Plby.erdos_795_signed_error_isLittleO, fun n => ?_⟩
  ring_nf
  exact le_rfl

#print axioms Erdos795Plby.erdos_795
#print axioms Erdos795Plby.erdos_795_signed_error_isLittleO
#print axioms erdos_795_bridge

end Bridge795
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«795»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/795.lean [hunk 1]
```diff
@@ -0,0 +1,100 @@
...
+@[expose] public section
+
+open Filter Real
+
+namespace Erdos795
+
+/-- `A` has distinct subset products: the products $\prod_{n\in S}n$ are distinct for all
+$S\subseteq A$. -/
+def HasDistinctSubsetProducts (A : Finset ℕ) : Prop :=
+  Set.InjOn (fun S : Finset ℕ ↦ ∏ n ∈ S, n) (A.powerset : Set (Finset ℕ))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/795.lean:49]: HasDistinctSubsetProducts is the multiplicative twin of 350.lean's DistinctSubsetSums, perhaps create a to_additive version?
